US04859230
N-[4-Chloro-5-(2,2-difluorocyclopropoxy)-2-fluorophenyl]-3,4,5,6-tetrahydrophthalimide (Compound No 8.1)
1.2 g N-[4-Chloro-2-fluoro-5-vinyloxyphenyl)-3,4,5,6-tetrahydrophthalimide was dissolved in 5 ml diethylene glycol dimethyl ether, the mixture was heated to reflux and a solution of 2.8 g sodium chlorodifluoroacetate in 5 ml diethylene glycol dimethyl ether was added slowly. The mixture was heated under reflux for 5 hours, then separated from the sodium chloride, which formed, and the solvent removed. The residue was chromatographed on silica gel using a mixture of hexane/diethyl ether=1:1.

reactant | N-[4-Chloro-2-fluoro-5-vinyloxyphenyl)-3,4,5,6-tetrahydrophthalimide | 1.2 g | ClC1=CC(=C(C=C1OC=C)N1C(C2=C(C1=O)CCCC2)=O)F | C16H13ClFNO3
reactant | sodium chlorodifluoroacetate | 2.8 g | ClC(C(=O)[O-])(F)F.[Na+]
reactant | diethylene glycol dimethyl ether | 5 ml | COCCOCCOC | C6H14O3
reactant | diethylene glycol dimethyl ether | 5 ml | COCCOCCOC | C6H14O3
product | N-[4-Chloro-5-(2,2-difluorocyclopropoxy)-2-fluorophenyl]-3,4,5,6-tetrahydrophthalimide | ClC1=CC(=C(C=C1OC1C(C1)(F)F)N1C(C2=C(C1=O)CCCC2)=O)F | C17H13ClF3NO3
